*
L1 N004 0 100m
L2 N004 0 200m
L3 N004 0 150m
L4 N004 0 50m
L5 N004 0 100m
L6 N004 0 150m
L7 N004 0 50m
L8 N004 0 50m
L9 N004 0 150m
L10 N004 0 100m
R1 0 N004 100
V1 N001 0 SINE(0 10 1k)
L11 N004 N003 100m
L12 N004 N003 200m
L13 N004 N003 150m
L14 N004 N003 50m
L15 N004 N003 100m
L16 N004 N003 150m
L17 N004 N003 50m
L18 N004 N003 50m
L19 N004 N003 150m
L20 N004 N003 100m
R2 N003 N004 100
L21 N002 N003 100m
L22 N002 N003 200m
L23 N002 N003 150m
L24 N002 N003 50m
L25 N002 N003 100m
L26 N002 N003 150m
L27 N002 N003 50m
L28 N002 N003 50m
L29 N002 N003 150m
L30 N002 N003 100m
R3 N003 N002 100
L31 N002 N001 100m
L32 N002 N001 200m
L33 N002 N001 150m
L34 N002 N001 50m
L35 N002 N001 100m
L36 N002 N001 150m
L37 N002 N001 50m
L38 N002 N001 50m
L39 N002 N001 150m
L40 N002 N001 100m
R4 N001 N002 100
.tran 0 1m 0 1u
.backanno
.end
